US09079911B2
Intermediate 39: 2-(4,6-Dimethoxy-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole
The title compound was prepared in a manner analogous to Intermediate 23 utilizing 2-chloro-4,6-dimethoxypyrimidine and hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester as starting materials.

reactant | 2-chloro-4,6-dimethoxypyrimidine | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CNCC2C1 | C11H20N2O2
product | 2-(4,6-Dimethoxy-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | COC1=NC(=NC(=C1)OC)N1CC2CNCC2C1 | C12H18N4O2
